US08114874B2
3-((Trimethylsilyl)ethynyl)imidazo[1,2-a]pyrazine:
A mixture of 3-bromoimidazo[1,2-a]pyrazine (0.15 g, 0.76 mmol; prepared according to J. Bradac, et al. J. Org. Chem. (1977), 42, 4197-4201), 0.09 g (0.91 mmol) of ethynyltrimethylsilane, 0.044 g (0.038 mmol) of Pd(PPh3)4, 0.014 g (0.076 mmol) of Cul, and 0.26 mL (1.52 mmol) of diisopropylethylamine in 3.8 mL of DMF was heated at 50° C. overnight under an atmosphere of N2. Upon cooling to ambient temperature, the reaction mixture was concentrated and the crude product was purified by silica gel flash chromatography (eluted with 50% EtOAc/hexanes) to provide 0.15 g of product: 216 m/z (M+H).

reactant | 3-bromoimidazo[1,2-a]pyrazine | 0.76 mmol, 0.15 g | BrC1=CN=C2N1C=CN=C2 | C6H4BrN3
reactant | ethynyltrimethylsilane | 0.91 mmol, 0.09 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | diisopropylethylamine | 1.52 mmol, 0.26 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3.8 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.038 mmol, 0.044 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-((Trimethylsilyl)ethynyl)imidazo[1,2-a]pyrazine | 0.15 g | C[Si](C)(C)C#CC1=CN=C2N1C=CN=C2 | C11H13N3Si
